US06387942B2
To the mixture of anhydrous AlCl3 (85 g, 0.64 mole) with dried toluene (90 mL) was added benzoyl chloride (50 mL, 0.43 mole) dropwise at 10±2° C. The mixture was warmed to 30±2° C. and stirred for 12 hours, and then heated to 100±5° C. and stirred for another 2 hr before it was cooled and added into ice water (200 mL) to terminate the reaction. The organic layer was separated and washed successively with water, 5% sodium carbonate and then water again till neutralized. The organic layer was dried over anhydrous magnesium sulfate and evaporated for solvent removal. The residue was recrystallized from n-hexane to obtain 62.1 g 4-methylbenzophenone in a yield 73.5%. mp: 55-57° C.

reactant | AlCl3 | 0.64 mole, 85 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzoyl chloride | 0.43 mole, 50 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methylbenzophenone | 62.1 g, yield 73.5% | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
